US05223498
A mixture of 1-(3-methyl-2-morpholinophenyl)thiourea (6 g) suspended in water (40 ml), lead acetate trihydrate (9 g) in water (40 ml), potassium hydroxide (13.5 g) in water (35 mol) was heated at 90°-95° C. for 1 hour to give N-(3-methyl-2-morpholinophenyl)cyanamide (m.p. 137°-138° C.) which was recrystallised from ethyl acetate.

reactant | 1-(3-methyl-2-morpholinophenyl)thiourea | 6 g | CC=1C(=C(C=CC1)NC(=S)N)N1CCOCC1 | C12H17N3OS
reactant | lead acetate trihydrate | 9 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | potassium hydroxide | 13.5 g | [OH-].[K+]
solvent | water | 40 ml | O | H2O
solvent | water | 40 ml | O | H2O
solvent | water | 35 mol | O | H2O
product | N-(3-methyl-2-morpholinophenyl)cyanamide | CC=1C(=C(C=CC1)NC#N)N1CCOCC1 | C12H15N3O
